** sch_path: /home/victor/Documentos/SideProject/AmpOp/DAC.sch
.subckt DAC VSS VDD V_SW b6 b5 b4 b3 b2 b1 b0 C_SW b7 VIN VREF VOUT AmpOp_SW
*.iopin VSS
*.iopin VDD
*.ipin V_SW
*.ipin b6
*.ipin b5
*.ipin b4
*.ipin b3
*.ipin b2
*.ipin b1
*.ipin b0
*.ipin C_SW
*.ipin b7
*.ipin VIN
*.ipin VREF
*.opin VOUT
*.ipin AmpOp_SW
XC1 net8 net1 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC2 net8 net10 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=1
XC3 net8 net11 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=2 m=2
XC4 net8 net2 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=4 m=4
XC5 net8 net3 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=8 m=8
XC6 net8 net4 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=16 m=16
XC7 net8 net5 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=32 m=32
XC8 net8 net6 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=64 m=64
x1 VDD net1 C_SW VSS net7 VSS SPDT
x2 VDD net10 b0 VSS net7 VSS SPDT
x3 VDD net11 b1 VSS net7 VSS SPDT
x4 VDD net2 b2 VSS net7 VSS SPDT
x5 VDD net3 b3 VSS net7 VSS SPDT
x6 VDD net4 b4 VSS net7 VSS SPDT
x7 VDD net5 b5 VSS net7 VSS SPDT
x8 VDD net6 b6 VSS net7 VSS SPDT
x9 VDD net7 V_SW VREF VIN VSS SPDT
x10 VDD net9 b7 VSS net7 VSS SPDT
XC9 net8 net9 sky130_fd_pr__cap_mim_m3_1 W=2 L=2 MF=128 m=128
x11 VDD net12 net8 VOUT VSS comparator
x12 VDD VOUT AmpOp_SW net8 VSS TG
XM1 net12 net12 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM2 VSS VSS net12 VDD sky130_fd_pr__pfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM3 VSS net12 VSS VSS sky130_fd_pr__nfet_01v8 L=10 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=5 m=5
.ends

* expanding   symbol:  SPDT.sym # of pins=6
** sym_path: /home/victor/Documentos/SideProject/AmpOp/SPDT.sym
** sch_path: /home/victor/Documentos/SideProject/AmpOp/SPDT.sch
.subckt SPDT VDD COM SEL V1 V2 GND
*.ipin SEL
*.iopin VDD
*.iopin GND
*.ipin V2
*.ipin V1
*.opin COM
XM1 COM SEL V2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM2 net1 SEL GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM3 V2 net1 COM VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM4 net1 SEL VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM5 COM net1 V1 GND sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM6 V1 SEL COM VDD sky130_fd_pr__pfet_01v8 L=0.15 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
.ends


* expanding   symbol:  comparator.sym # of pins=5
** sym_path: /home/victor/Documentos/SideProject/AmpOp/comparator.sym
** sch_path: /home/victor/Documentos/SideProject/AmpOp/comparator.sch
.subckt comparator VDD VP VN VOUT VSS
*.ipin VN
*.ipin VP
*.iopin VDD
*.opin VOUT
*.iopin VSS
XM2 net1 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM3 net2 net1 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM1 net1 VN net3 GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM4 net2 VP net3 GND sky130_fd_pr__nfet_01v8 L=0.5 W=4 nf=1 ad=1.16 as=1.16 pd=8.58 ps=8.58 nrd=0.0725 nrs=0.0725 sa=0 sb=0 sd=0
+ mult=1
XM5 net3 net8 net4 GND sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM6 net5 net5 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM7 net6 net5 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM8 net5 net5 VSS GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XM9 net6 net5 net10 GND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=4 m=4
XR1 VSS net10 VSS sky130_fd_pr__res_high_po W=1 L=21.5 mult=1
XM12 net8 net8 net7 GND sky130_fd_pr__nfet_01v8 L=2 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM13 net7 net7 VSS GND sky130_fd_pr__nfet_01v8 L=2 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XM14 net8 net5 VDD VDD sky130_fd_pr__pfet_01v8 L=1 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM10 net4 net7 VSS GND sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM11 VOUT net2 VDD VDD sky130_fd_pr__pfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM15 VOUT net8 net9 GND sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
XM20 net9 net7 VSS GND sky130_fd_pr__nfet_01v8 L=2 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0 sd=0
+ mult=1
.ends


* expanding   symbol:  TG.sym # of pins=5
** sym_path: /home/victor/Documentos/SideProject/AmpOp/TG.sym
** sch_path: /home/victor/Documentos/SideProject/AmpOp/TG.sch
.subckt TG VDD COM SEL VIN GND
*.ipin SEL
*.iopin VDD
*.iopin GND
*.iopin COM
*.iopin VIN
XM1 COM SEL VIN GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
XM2 net1 SEL GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
XM3 VIN net1 COM VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
XM4 net1 SEL VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0 sd=0
+ mult=1
.ends

.end
